US04690157
Benzaldehyde is reacted with γ-butyrolactone to produce 2-(1-hydroxy-1-phenylmethyl)-γ-butyrolactone.

reactant | Benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | γ-butyrolactone | C1(CCCO1)=O | C4H6O2
product | 2-(1-hydroxy-1-phenylmethyl)-γ-butyrolactone | OC(C1=CC=CC=C1)C1C(=O)OCC1 | C11H12O3
